US04220791
DL-2-(3-Mercapto-1-oxopropyl)-5-oxo-3-pyrazolidinecarboxylic acid
DL-2-[3-(Acetylthio)-1-oxopropyl]-5-oxo-3-pyrazolidinecarboxylic acid (1.2 g) is treated in an argon atmosphere with 8 ml of a cold solution of 6.5 N ammonium hydroxide. After one hour at room temperature, the solution is extracted with ethyl acetate and treated with concentrated hydrochloric acid to pH 2. The water soluble product is extracted with five 20 ml portions of ethyl acetate. The combined extracts are dried over magnesium sulfate and evaporated to an oil which gradually solidifies. This material is dried in vacuo at 100° C. for 1 hour yielding 0.45 g of the title compound, melting point 140°-142° C.

reactant | 2-[3-(Acetylthio)-1-oxopropyl]-5-oxo-3-pyrazolidinecarboxylic acid | 1.2 g | C(C)(=O)SCCC(=O)N1NC(CC1C(=O)O)=O | C9H12N2O5S
reactant | ammonium hydroxide | 6.5 N | [OH-].[NH4+]
product | 2-(3-Mercapto-1-oxopropyl)-5-oxo-3-pyrazolidinecarboxylic acid | 0.45 g | SCCC(=O)N1NC(CC1C(=O)O)=O | C7H10N2O4S
